US04988689
(a-1) To a stirred mixture of 25 parts of carbonothioic dichloride, 65 parts of water and 210 parts of trichloromethane were added dropwise 9.3 parts of ethyl 3-aminopyrrolidinecarboxylate. Upon completion, the reaction mixture was stirred for 15 minutes at room temperature. 10.7 Parts of calcium carbonate were added portionwise during a period of 10 minutes and stirring was continued overnight at room temperature. The reaction mixture was filtered and the separated organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was distilled at 6.65 Pa, yielding 7.5 parts (69.3%) of ethyl 3-isothiocyanato-1-pyrrolidinecarboxylate; bp. 101° C. (interm 6).

reactant | carbonothioic dichloride | C(=S)(Cl)Cl | CCl2S
reactant | water | O | H2O
reactant | ethyl 3-aminopyrrolidinecarboxylate | NC1CN(CC1)C(=O)OCC | C7H14N2O2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | ethyl 3-isothiocyanato-1-pyrrolidinecarboxylate | 69.3% | N(=C=S)C1CN(CC1)C(=O)OCC | C8H12N2O2S
